US04788010
(E) 3-Methoxy-β-[(3,3-diphenylpropyl)amino]benzenepropanol
3-Methoxy-α-[(1-oxo-3,3-diphenylpropyl)amino]benzenepropionic acid, 1,1-dimethylethyl ester (1 eq, 1 mmole, 470 mg) was added portionwise to a mixture of lithium aluminum hydride (3 mmole, 3 ml of 1M in tetrahydrofuran) in tetrahydrofuran (5 ml) at 0° C. under argon. After the addition and the cessation of hydrogen evolution, the mixture was brought to reflux. The mixture was refluxed overnight, cooled to room temperature and quenched with solid sodium sulfate.10 water. The solids were removed by filtration through Celite, and the solvent was evaporated in vacuo to yield an oil which crystallized upon standing. The crystals were washed with hexanes/ether, collected, and dried to afford 299.9 mg of the title compound, melting point 89°-91° C.

reactant | 3-Methoxy-α-[(1-oxo-3,3-diphenylpropyl)amino]benzenepropionic acid, 1,1-dimethylethyl ester | 1 mmole, 470 mg, 1 eq | COC=1C=C(C=CC1)CC(C(=O)OC(C)(C)C)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H33NO4
reactant | lithium aluminum hydride | 3 mmole, 1M, 3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-Methoxy-β-[(3,3-diphenylpropyl)amino]benzenepropanol | 299.9 mg | COC=1C=C(C=CC1)CC(CO)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29NO2
